US06908939B2
(b) methyl 6-(2-methoxyethoxymethoxy)naphthalene-2-carboxylate
14 g (69 mmol) of methyl 6-hydroxynaph-thalene-2-carboxylate in 90 ml of dimethylformamide and 90 ml of tetrahydrofuran are introduced into a round-bottomed flask and under a nitrogen stream. 3.3 g (82 mmol) of sodium hydride at 60% are added in small portions. When the gas emission has ceased, 8.7 ml (76 mmol) of 2-methoxyethoxymethyl chloride are added and the reaction medium is stirred for 3 hours at room temperature. It is then poured into ice-cold water and extracted with ether. The organic phase is dried over magnesium sulphate, filtered and evaporated off. The residue obtained is purified by chromatography on a silica column eluted with a heptane and ethyl acetate (80/20) mixture and 17 g (85%) of the expected product are obtained in the form of a colorless oil.

reactant | methyl 6-hydroxynaph-thalene-2-carboxylate | 69 mmol, 14 g | OC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C12H10O3
reactant | sodium hydride | 82 mmol, 3.3 g | [H-].[Na+]
reactant | 2-methoxyethoxymethyl chloride | 76 mmol, 8.7 ml | COCCOCCl | C4H9ClO2
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | methyl 6-(2-methoxyethoxymethoxy)naphthalene-2-carboxylate | COCCOCOC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C16H18O5
